US08536185B2
Preparation of 2-phenyl-5-(2-phenylpyrimidin-5-yl)oxazole
Silver carbonate (317 mg, 1.15 mmol), triphenylphosphine (16 mg, 0.06 mmol) and Pd(dppf)Cl2.CH2Cl2 (24 mg, 5 mole %) were stirred together at room temperature under nitrogen. 5-Bromo-2-phenylpyrimidine (163 mg, 0.69 mmol) was added followed by 2-phenyl-oxazole (84 mg, 0.58 mmol; prepared according to Ohnmacht, S. A. et al., Chemical Communications, 2008, 1241-1243). Finally water (6 mL) was added and the mixture heated for 18 hours at 60° C. The mixture was cooled to room temperature and filtered through Celite washing with DCM and acetone. Purification by silica gel flash chromatography (100% DCM) through a 12-g Silicycle® flash silica cartridge gave title compound as light yellow solid (19 mg, 11% yield); Rf 0.68 with DCM; melting point 228-231° C.; 1H-NMR (300 MHz; DMSO-d6) δ 9.39 (s, 2H), 8.45 (dd, 2H), 8.17 (dd, 2H), 8.11 (s, 1H), 7.54-7.65 (m, 6H); MS (ESI+) m/z 300 (M+1), (ESI−) m/z 298 (M−1); H-PGDS FPBA IC50: 125 μM.

reactant | triphenylphosphine | 0.06 mmol, 16 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CH2Cl2 | 24 mg | C(Cl)Cl | CH2Cl2
reactant | 5-Bromo-2-phenylpyrimidine | 0.69 mmol, 163 mg | BrC=1C=NC(=NC1)C1=CC=CC=C1 | C10H7BrN2
reactant | 2-phenyl-oxazole | C1(=CC=CC=C1)C=1OC=CN1 | C9H7NO
catalyst | Silver carbonate | 1.15 mmol, 317 mg | C([O-])([O-])=O.[Ag+2]
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 6 mL | O | H2O
product | 2-phenyl-5-(2-phenylpyrimidin-5-yl)oxazole | 19 mg, 11% yield | C1(=CC=CC=C1)C=1OC(=CN1)C=1C=NC(=NC1)C1=CC=CC=C1 | C19H13N3O
